US05264454
6-(2-Chlorobenzoyl)-5-(2-nitroethenylamino)indan (4.8 g) was added in small portions to a solution of DBU (4.8 g) in benzene (50 ml) with heating at 90° C. The mixture was refluxed for 30 minutes and, then, washed with 2N HCl and water and dried (MgSO4). The solvent was then distilled off to give crystals of 4-(2-chlorophenyl)-7,8-dihydro-3-nitro-6H-cyclopenta[g]quinoline. The crystals were collected by filtration and washed with methanol (4.50 g, 99.1%). Recrystallization from ethanol gave light brown prisms, mp. 175°-176° C.

reactant | 6-(2-Chlorobenzoyl)-5-(2-nitroethenylamino)indan | 4.8 g | ClC1=C(C(=O)C2=C(C=C3CCCC3=C2)NC=C[N+](=O)[O-])C=CC=C1 | C18H15ClN2O3
reactant | DBU | 4.8 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-(2-chlorophenyl)-7,8-dihydro-3-nitro-6H-cyclopenta[g]quinoline | ClC1=C(C=CC=C1)C1=C(C=NC2=CC3=C(C=C12)CCC3)[N+](=O)[O-] | C18H13ClN2O2
